US05364844
25(a) (2S, 4S, 5S)-5-[N-(t-butoxycarbonyl)-3-(4-thiazolyl)-L-alanyl]amino-6-cyclohexyl-4-hydroxy-2-(1-hydroxy-1-methylethyl)-N-butylhexanamide
A mixture of 309 mg (0.698 mmole) of (2S, 4S, 5S)-5-(t-butoxycarbonylamino)-6-cyclohexyl-4-hydroxy-2-(1-hydroxy-1-methylethyl)-N-butylhexanamide (prepared as described in Preparation 29) in 6 ml of a 4N solution of hydrogen chloride in dioxane was stirred at room temperature for 30 minutes under an atmosphere of nitrogen. At the end of this time, the reaction mixture was concentrated by evaporation under reduced pressure, and then benzene was added to the residue. The solvent was removed by distillation under reduced pressure from the resulting solution. The same operation was repeated, in total, three times, and the resulting residue was then dried by evaporation under reduced pressure for 8 hours. At the end of this time, 200.6 mg (0.737 mmole) of N-(t-butoxycarbonyl)-3-(4-thiazolyl)-L-alanine were added to a suspension of the dried material in 15 ml of anhydrous tetrahydrofuran, and then 0.13 ml (0.858 mmole) of 95% diethyl cyanophosphate and 0.3 ml of triethylamine were added to the resulting mixture, whilst ice-cooling and under an atmosphere of nitrogen. The mixture was then stirred for 5 hours, after which the solvent was removed by distillation under reduced pressure and the residue was purified by medium pressure silica gel column chromatography (using a 20:1 by volume mixture of methylene chloride and methanol as eluent), followed by recrystallization from a mixture of methylene chloride and diisopropyl ether, to give 457.8 mg or the title compound as white crystals.

reactant | (2S, 4S, 5S)-5-(t-butoxycarbonylamino)-6-cyclohexyl-4-hydroxy-2-(1-hydroxy-1-methylethyl)-N-butylhexanamide | 0.698 mmole, 309 mg | C(C)(C)(C)OC(=O)N[C@H]([C@H](C[C@H](C(=O)NCCCC)C(C)(C)O)O)CC1CCCCC1 | C24H46N2O5
reactant | hydrogen chloride | Cl | ClH
reactant | N-(t-butoxycarbonyl)-3-(4-thiazolyl)-L-alanine | 0.737 mmole, 200.6 mg | C(C)(C)(C)OC(=O)N[C@@H](CC=1N=CSC1)C(=O)O | C11H16N2O4S
reactant | diethyl cyanophosphate | 0.858 mmole, 0.13 ml | P(=O)(OCC)(OCC)C#N | C5H10NO3P
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 0.3 ml | C(C)N(CC)CC | C6H15N
product | (2S, 4S, 5S)-5-[N-(t-butoxycarbonyl)-3-(4-thiazolyl)-L-alanyl]amino-6-cyclohexyl-4-hydroxy-2-(1-hydroxy-1-methylethyl)-N-butylhexanamide | C(C)(C)(C)OC(=O)N[C@@H](CC=1N=CSC1)C(=O)N[C@H]([C@H](C[C@H](C(=O)NCCCC)C(C)(C)O)O)CC1CCCCC1 | C30H52N4O6S
